US04096100
Preparation 1,5-bis(n-propanesulfony) carbohydrazide
Into a 1-liter reaction flask was charged 29.5 g (0.2 mole) n-propane sulfonyl chloride, 200 ml ethanol, 9 g (0.1 mole) carbohydrazide and 16.8 g (0.2 mole) sodium bicarbonate. The mix was stirred and heated gradually to 80° C over a one hour period and was then allowed to reflux for four hours. The separated sodium chloride was filtered off (hot). The filtrate was cooled whereupon the crystalline product separated (17 g) m.p. 191°-194° C.

reactant | n-propane sulfonyl chloride | 0.2 mole, 29.5 g | C(CC)S(=O)(=O)Cl | C3H7ClO2S
reactant | carbohydrazide | 0.1 mole, 9 g | NNC(=O)NN | CH6N4O
reactant | sodium bicarbonate | 0.2 mole, 16.8 g | C([O-])(O)=O.[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 1,5-bis(n-propanesulfony) carbohydrazide | C(CC)S(=O)(=O)NNC(=O)NNS(=O)(=O)CCC | C7H18N4O5S2
